US07183287B2
Preparation of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide
To a cold solution of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid (0.8 g, 1.7 mmol) in anhydrous dimethylacetamide (3.2 mL) was added isobutyl chloroformate (0.23 mL, 1.7 mmol) followed by N-methylmorpholine (0.25 mL, 2.2 mmol). The reaction mixture stirred under argon atmosphere at 0° C. for 10 min and then at room temperature for 30 min. At which time another equivalent of N-methylmorpholine (0.29 mL, 2.5 mmol) was added to reaction mixture, followed by the addition of glycine methyl amide HCl (0.33 g, 2.5 mmol) and DMAP (ca.). The reaction mixture stirred for 2 h at room temperature and then diluted with acetonitrile/water (2:1 v/v) to be purified by reverse phase HPLC using a 10–90% acetonitrile in water containing 0.5% TFA (30 min) gradient at a 80 mL/min flow rate. The appropriate fractions (M+H m/z=521) were collected and concentrated to a reduced volume. The resulting suspension was diluted with dichloromethane (30 mL) and washed with 5% NaHCO3 (2×50 mL). The organic extracts were washed with water (2×25 mL) and dried over Na2SO4 (anhydrous). The organic extracts were concentrated under reduced pressure and dried in vacuo to afford the desired product (364.4 mg, 37%) as a white solid. 1H-NMR (CD3OD, 400 MHz) δ 8.32 (s, 1H), 7.96 (dd, 1H, J=2 Hz), 7.80 (d, 1H, J=2 Hz), 7.62 (m, 1H), 7.55 (d, 1H, J=8.4 Hz), 7.01 (m, 2H), 5.60 (q, 2H, J=12.4 Hz), 3.98 (s, 2H), 2.74 (s, 3H), 2.20 (s, 3H); ES-HRMS m/z 521.0650 (M+H C22H20BrF2N4O4 requires 521.0630).

reactant | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoic acid | 1.7 mmol, 0.8 g | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)O)C=CC1C)OCC1=C(C=C(C=C1)F)F | C19H13BrF2N2O4
reactant | isobutyl chloroformate | 1.7 mmol, 0.23 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 2.2 mmol, 0.25 mL | CN1CCOCC1 | C5H11NO
reactant | N-methylmorpholine | 2.5 mmol, 0.29 mL | CN1CCOCC1 | C5H11NO
reactant | glycine methyl amide HCl | 2.5 mmol, 0.33 g | Cl.CNC(CN)=O
solvent | dimethylacetamide | 3.2 mL | CC(=O)N(C)C | C4H9NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile water | C(C)#N.O
product | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide | 364.4 mg, 37% | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)NC)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H19BrF2N4O4
